US08022222B2
Using the method of Example 3, Step A, ethyl 4-fluoro-3-hydroxybenzoate (2.90 g, 15.8 mmol), 60% sodium hydride in mineral oil (631 mg, 15.8 mmol), and 2-chloro-4-nitropyridine (2.50 g, 15.8 mmol) were reacted to provide ethyl 4-fluoro-3-(2-chloropyridin-4-yloxy)benzoate (4.15 g, 89% yield) as a clear oil. 1H NMR-(CDCl3) δ 8.27 (d, 1H), 8.02 (m, 1H), 7.90 (d, 1H), 7.30 (t, 1H), 6.78-6.83 (m, 2H), 4.39 (q, 2H), 1.40 (t, 3H).

reactant | ethyl 4-fluoro-3-hydroxybenzoate | 15.8 mmol, 2.90 g | FC1=C(C=C(C(=O)OCC)C=C1)O | C9H9FO3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 15.8 mmol, 2.50 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | ethyl 4-fluoro-3-(2-chloropyridin-4-yloxy)benzoate | 4.15 g, 89% yield | FC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)Cl | C14H11ClFNO3
